US07662771B2
Add sodium hydroxide (1.32 g, 33 mmol) in water (20 mL) to a suspension of 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid methyl ester (2.60 g, 8 mmol) in methanol (50 mL) at 0° C. under nitrogen and warm the mixture to room temperature and stir for 8 hours. Remove the solvent under reduced pressure, dilute the residue with water (200 mL), cool to 0° C., and acidify to pH 1 with 1 N HCl. Collect the precipitate to provide 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid (1.70 g, 68%). APCI mass spectrum m/z 301 [C17H22N2O3−H]−.

reactant | sodium hydroxide | 33 mmol, 1.32 g | [OH-].[Na+]
reactant | 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid methyl ester | 8 mmol, 2.60 g | COC(CCCCCCCN1C=NC(=C1)C1=C(C=CC=C1)O)=O | C18H24N2O3
solvent | water | 20 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid | 1.70 g, 68% | OC1=C(C=CC=C1)C=1N=CN(C1)CCCCCCCC(=O)O | C17H22N2O3
